US07838188B2
(1) Synthesis of p-benzyl-ethylaminophenethyl alcohol
In a four-aperture flask, 9.6 g (70 mmol) of p-aminophenethyl alcohol, 38.7 g (280 mmol) of potassium carbonate, and 50 mL of dehydrated toluene were poured, and the mixture was heated at 100° C. under an argon atmosphere with stirring. Then, 10.9 g (70 mmol) of ethyl iodide was delivered by drops into the reaction solution for 3 hours. Upon completion of the dripping, the reaction solution was further heated with stirring for 1 hour. Into the reaction solution, 10.9 g (70 mmol) of benzyl chloride was delivered by drops for 30 minutes. Upon completion of the dripping, the reaction solution was further heated with stirring for 3 hours. The reaction solution was cooled to the room temperature and then diluted with toluene, followed by washing with water five times. The toluene solution was dried with anhydrous magnesium sulfate, and then the solvent was distilled away to purify the toluene solution by silica gel chromatography using a mixture solvent of toluene/ethyl acetate (10/1) as an eluent to synthesize 6.69 g (yield: 37% by mass) of p-benzyl-ethylaminophenethyl alcohol.

reactant | p-aminophenethyl alcohol | 70 mmol, 9.6 g | NC1=CC=C(CCO)C=C1 | C8H11NO
reactant | potassium carbonate | 280 mmol, 38.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 70 mmol, 10.9 g | C(C)I | C2H5I
reactant | benzyl chloride | 70 mmol, 10.9 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | p-benzyl-ethylaminophenethyl alcohol | C(C1=CC=CC=C1)C1=CC=C(CC(NCC)O)C=C1 | C17H21NO
